US05008267
(1) Preparation of N-(1-methylethyl)-3-(4-nitrophenyl)propylamine
3-(4-nitrophenyl)propyl p-toluenesulfonate (1 g) and 5 ml of isopropylamine were dissolved in 15 ml of dioxane, and the solution was stirred under heating with reflux for 4 hours. To the solution were added 100 ml of water and 100 ml of chloroform, and the mixture was thoroughly mixed for extraction. The chloroform-layer fraction was taken, washed with water and dried over sodium sulfate anhydrous. The solvent was removed in vacuo, and thus 0.61 g of an oil of N-(1-methylethyl)-3-(4-nitrophenyl)propylamine was obtained.

reactant | 3-(4-nitrophenyl)propyl p-toluenesulfonate | 1 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1=CC=C(C=C1)[N+](=O)[O-])C | C16H17NO5S
reactant | isopropylamine | 5 ml | C(C)(C)N | C3H9N
reactant | water | 100 ml | O | H2O
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-(1-methylethyl)-3-(4-nitrophenyl)propylamine | CC(C)NCCCC1=CC=C(C=C1)[N+](=O)[O-] | C12H18N2O2
